US08957064B2
Step 1: 5-chloro-6-(2,6-difluorophenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester
5 g (13.96 mmol) 5,7-Dichloro-6-(2,6-difluorophenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester are dissolved in a mixture of 355 mL ethanol, 253 mL water and 136 mL THF. After addition of 5.8 g (89 mmol) zinc in portions, the mixture is vigorously stirred at rt for three hours. Stirring is continued over night. The reaction mixture is filtered via a glass microfibre filter and washed with plenty of ethanol. The solvent has been removed and the residue redissolved in ethyl acetate. After washing twice with brine and drying over Na2SO4, the solvent is evaporated and the residue is used in the next step as the crude contaminated product (2.3 g=51%).

reactant | 5,7-Dichloro-6-(2,6-difluorophenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester | 13.96 mmol, 5 g | COC(=O)C=1C=NN2C1N=C(C(=C2Cl)C2=C(C=CC=C2F)F)Cl | C14H7Cl2F2N3O2
solvent | ethanol | 355 mL | C(C)O | C2H6O
solvent | water | 253 mL | O | H2O
solvent | THF | 136 mL | C1CCOC1 | C4H8O
catalyst | zinc | 89 mmol, 5.8 g | [Zn] | Zn
product | 5-chloro-6-(2,6-difluorophenyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid methyl ester | COC(=O)C=1C=NN2C1N=C(C(=C2)C2=C(C=CC=C2F)F)Cl | C14H8ClF2N3O2
